US06348474B1
1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-4-methyl-2,3(1H,4H)-quinoxalinedione
A mixture of 1-(2,4-dichlorobenzyl)-7-(ethoxycarbonyl)quinoxaline-2,3-dione (0.90 g), methyl iodide (0.49 g) and potassium carbonate (0.63 g) in acetone (20 ml) was heated under reflux for 2 hr. After cooling, the reaction mixture was concentrated. The residue was washed with water (150 ml) and methyl t-butyl ether (100 ml) and dried to give the object compound (0.84 g) as white crystals.

reactant | 1-(2,4-dichlorobenzyl)-7-(ethoxycarbonyl)quinoxaline-2,3-dione | 0.90 g | ClC1=C(CN2C(C(NC3=CC=C(C=C23)C(=O)OCC)=O)=O)C=CC(=C1)Cl | C18H14Cl2N2O4
reactant | methyl iodide | 0.49 g | CI | CH3I
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-4-methyl-2,3(1H,4H)-quinoxalinedione | 0.84 g | ClC1=C(CN2C(C(N(C3=CC=C(C=C23)C(=O)OCC)C)=O)=O)C=CC(=C1)Cl | C19H16Cl2N2O4
